US05128356
Methyl 3-nitro-2-valerylaminobenzoate
Fuming nitric acid (7.0 ml) was added dropwise to acetic anhydride (60 ml) under ice-cooling and there was added conc. sulfuric acid (0.2 ml). To the mixture was added methyl 2-valerylaminobenzoate (12 g), which was stirred for one hour at room temperature. To the resultant mixture was added ice-water and the mixture was then extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated. The concentrate was purified by column chromatography on silica gel to give crude crystals, followed by recrystallization from isopropyl ether to afford colorless needles (3.9 g, 28%), m.p. 61°-62° C.

reactant | nitric acid | 7.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-valerylaminobenzoate | 12 g | C(CCCC)(=O)NC1=C(C(=O)OC)C=CC=C1 | C13H17NO3
solvent | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl 3-nitro-2-valerylaminobenzoate | 3.9 g, 28% | [N+](=O)([O-])C=1C(=C(C(=O)OC)C=CC1)NC(CCCC)=O | C13H16N2O5
